US08138197B2
[5-(4-Oxospiro[chroman-2,4′-piperidin]-6-yl)-2H-tetrazol-2-yl]methyl 2,2-dimethylpropanoate hydrochloride
To a solution of tert-Butyl 6-(2-{[(2,2-dimethylpropanoyl)oxy]methyl}-2H-tetrazol-5-yl)-4-oxo-spiro[chroman-2,4′-piperidine]-1′-carboxylate (68.0 g) in EtOAc (1.36 L) was added 4N HCl in EtOAc (340 ml) at 0° C. and the mixture was further stirred for 21 h at room temperature. The resulted precipitate was filtered and washed with EtOAc to give intended compound as a pale yellow solid.

reactant | tert-Butyl 6-(2-{[(2,2-dimethylpropanoyl)oxy]methyl}-2H-tetrazol-5-yl)-4-oxo-spiro[chroman-2,4′-piperidine]-1′-carboxylate | 68.0 g | CC(C(=O)OCN1N=C(N=N1)C=1C=C2C(CC3(CCN(CC3)C(=O)OC(C)(C)C)OC2=CC1)=O)(C)C | C25H33N5O6
reactant | HCl | 4N | Cl | ClH
solvent | EtOAc | 1.36 L | CCOC(=O)C | C4H8O2
solvent | EtOAc | 340 ml | CCOC(=O)C | C4H8O2
product | [5-(4-Oxospiro[chroman-2,4′-piperidin]-6-yl)-2H-tetrazol-2-yl]methyl 2,2-dimethylpropanoate hydrochloride | Cl.CC(C(=O)OCN1N=C(N=N1)C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O)(C)C | InChI=1S/C20H25N5O4.ClH/c1-19(2,3)18(27)28-12-25-23-17(22-24-25)13-4-5-16-14(10-13)15(26)11-20(29-16)6-8-21-9-7-20;/h4-5,10,21H,6-9,11-12H2,1-3H3;1H
